US06011044
Preparation of 1-(2-methylphenyl)-4-[(3-hydroxy-propyl)amino]-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methylphenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(500 mg, 1.3 mmol) was dissolved in 3-amino-1-propanol(5.0 ml), and reacted at the same condition of Step 6 in the Example 30 to obtain 496 mg of desired compound as solid in 90% of yield.

reactant | 1-(2-Methylphenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.3 mmol, 500 mg | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)Cl | C20H16ClF3N2O
reactant | 3-amino-1-propanol | 5.0 ml | NCCCO | C3H9NO
product | 1-(2-methylphenyl)-4-[(3-hydroxy-propyl)amino]-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 496 mg | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NCCCO | C23H24F3N3O2
